US04845239
50 g (0.19 mol) of sodium butyl 2-hydroxy-3chloropropyl phosphate was charged into a reactor, to which 1000 ml of ethanol was added, followed by agitation and heating to 70° C. to obtain a uniform mixture. Thereafter, the reaction system was cooled down to room temperature, to which was gradually added 88.6 g (0.19 mol) of a 0.0021 mol/g sodium hydroxide ethanol solution, followed by agitation for 3 hours while keeping the temperature. The HPLC analysis revealed the disappearance of a peak of the starting material with a peak for the resultant new product appearing. The resultant NaCl precipitate was removed by filtration and the ethanol was distilled off under reduced pressure to obtain 43 g (yield: 100%) of sodium butyl glycidyl phosphate.

reactant | sodium butyl 2-hydroxy-3chloropropyl phosphate | 0.19 mol, 50 g | P(=O)(OCCCC)(OCC(CCl)O)[O-].[Na+]
reactant | sodium hydroxide ethanol | C(C)O.[OH-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | sodium butyl glycidyl phosphate | 43 g, yield: 100% | P(=O)(OCCCC)(OCC1CO1)[O-].[Na+] | InChI=1S/C7H15O5P.Na/c1-2-3-4-11-13(8,9)12-6-7-5-10-7;/h7H,2-6H2,1H3,(H,8,9);/q;+1/p-1
